US03975528
Preparation of 2-(p-Chlorophenoxymethylimino)-1,3-dithietane
To a mixture of 19.3 g. of methylene bromide and 3.7 g. of treithylamine in 100 ml. of dimethylformamide was added 10.0 g. of potassium p-chlorophenoxymethyldithiocarbamate in portions. After another 1 to 2 hours, the mixture was poured into water and partitioned into ethylene chloride. The dried ethylene chloride mixture was saturated with dry hydrogen chloride and the resulting salt collected by filtration. Hydrolysis of the salt in a chloroform-water mixture followed by separation, drying and concentration of the chloroform layer gave 3.5 g. of the dithietane as pale yellow crystals, m.p. 64.5°-66.0°C.

reactant | methylene bromide | C(Br)Br | CH2Br2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | potassium p-chlorophenoxymethyldithiocarbamate | ClC1=CC=C(OCNC([S-])=S)C=C1.[K+]
reactant | dithietane | S1SCC1 | C2H4S2
solvent | water | O | H2O
product | 2-(p-Chlorophenoxymethylimino)-1,3-dithietane | ClC1=CC=C(OCN=C2SCS2)C=C1 | C9H8ClNOS2
